US07550478B2
N-[5-oxo-3-(3-thienyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide
N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide (0.100 g, 0.30 mmol), 3-thienylboronic acid (0.077 g, 0.60 mmol), tetrakis(triphenylphosphine)palladium (0) (10 mg, 0.009 mmol) and potassium carbonate (0.124 g, 0.90 mmol) were combined in a dry flask. The flask was purged with argon and 5 mL of dry dioxane was added. Argon was bubbled through the solution for 5 minutes and the solution was stirred and heated to 100° C. After 12 hours, the reaction mixture was poured into 100 mL of ethyl acetate, 100 mL of water, and 25 mL of saturated ammonium chloride. The organic layer was separated, dried with magnesium sulfate, filtered, concentrated, and purified by reverse phase HPLC (30-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound. 1H NMR (600 MHz, DMSO-D6) δ 10.40 (s, 1H); 9.34 (d, 1H); 8.70 (d, 1H); 8.28 (s, 1H); 8.00 (d, 1H); 7.78 (m, 2H); 7.73 (m, 1H); 7.58 (dd, 1H); 7.38 (d, 1H); 7.26 (d, 1H); 3.08 (s, 3H). LRMS (APCI) calculated for C19H15N2O3S2 [M+H]+, 383.0; found 383.1.

reactant | N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide | 0.30 mmol, 0.100 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)C | C15H11ClN2O3S
reactant | 3-thienylboronic acid | 0.60 mmol, 0.077 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 0.90 mmol, 0.124 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-oxo-3-(3-thienyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide | O=C1C2=C(C=CC3=NC=C(C=C31)C3=CSC=C3)C=CC(=C2)NS(=O)(=O)C | C19H14N2O3S2
